US04166813
2,2-Bis[4-{3-[N-butyl-N-(2,2,6,6-tetramethyl-4-piperidyl)amino]-2-hydroxypropoxy}phenyl]propane (Compound No. 70)
To 150 ml of methanol were added 21.2 g of 4-butylamino-2,2,6,6-tetramethylpiperidine and 17.0 g of 2,2-bis[p-(2,3-epoxypropoxy)phenyl]propane; the mixture was then refluxed, with stirring, for 5 hours. After completion of the reaction, the solvent was removed from the reaction mixture by evaporation under reduced pressure, and the resulting residue was purified by column chromatography through silica gel eluted with a 5:1 by volume mixture of ethyl acetate and triethylamine. The desired compound was obtained in the form of a white powder having an Rf value of 0.63 on thin layer chromatography on silica gel developed with a 5:1 by volume mixture of ethyl acetate and triethylamine.

reactant | 4-butylamino-2,2,6,6-tetramethylpiperidine | 21.2 g | C(CCC)NC1CC(NC(C1)(C)C)(C)C | C13H28N2
reactant | 2,2-bis[p-(2,3-epoxypropoxy)phenyl]propane | 17.0 g | O1C(COC2=CC=C(C=C2)C(C)(C)C2=CC=C(C=C2)OCC2CO2)C1 | C21H24O4
solvent | methanol | 150 ml | CO | CH4O
product | 2,2-Bis[4-{3-[N-butyl-N-(2,2,6,6-tetramethyl-4-piperidyl)amino]-2-hydroxypropoxy}phenyl]propane | C(CCC)N(C1CC(NC(C1)(C)C)(C)C)CC(COC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)OCC(CN(CCCC)C1CC(NC(C1)(C)C)(C)C)O)O | C47H80N4O4
